US08685969B2
4. 1-(4-Chloro-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indol-7-yl)ethanone
To 7-acetyl-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one (1.88 g, 91.7% pure, 4.75 mmol) at room temperature was added phosphoryl trichloride (350 mL, 3755 mmol), and the mixture was heated at 110° C. for 1 hr. The excess of phosphoryl trichloride was removed under vacuum. The residue was dissolved in ice cold ethyl acetate (900 mL), washed with water (100 mL), saturated NaHCO3 solution (2×100 mL), water (100 mL), and brine (100 mL). The organic solution was dried over anhydrous MgSO4 and concentrated under vacuum to dryness to provide the desired product (1.57 g, 4.12 mmol, 86% yield over 2 steps) as a beige solid.

reactant | 7-acetyl-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one | 4.75 mmol, 1.88 g | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(NN=C3C3=C(C(=CC=C3)[N+](=O)[O-])C)=O | C19H14N4O4
reactant | phosphoryl trichloride | 3755 mmol, 350 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(4-Chloro-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indol-7-yl)ethanone | 4.12 mmol, 1.57 g, 86% yield | ClC1=NN=C(C2=C1NC=1C=C(C=CC21)C(C)=O)C2=C(C(=CC=C2)[N+](=O)[O-])C | C19H13ClN4O3
